US07151105B2
Preparation of 2-(4-bromo-2-fluorophenyl)-2-methylpropanenitrile
A 2-L, 3-neck flask was charged with (4-bromo-2-fluorophenyl)acetonitrile (100.91 g, 0.4715 mol), MeOTs (156 mL g, 1.034 mol), DMF (400 mL) and THF (400 mL). The headspace was purged with nitrogen and the solution was cooled to −10° C. The NaOtBu (96.58 g, 1.005 mol) was divided into 4 equal portions that were added separately to the reaction to control the exotherm. Five minutes after the fourth and final charge an aliquot was removed and analyzed by HPLC, verifying reaction completion. The cold bath was removed, and the reaction allowed to stir without cooling (internal temp=4° C.). The flask was then charged with DABCO (13.02 g, 0.116 mol) to consume the remaining MeOTs. After 30 min an aliquot was removed and analyzed by HPLC, showing no detectable MeOTs. The flask was charged with H2O (400 mL) and hexanes (400 mL) and the mixture added to a separatory funnel. The phases were mixed well and then separated. The aqueous phase was re-charged to the separatory funnel and re-extracted with hexanes (200 mL). The organic phases from the first two extractions were combined and transferred back to the separatory funnel and washed twice with H2O (200 mL). The phases were separated and the organic layer was added to a 2-L, 3-neck flask set up for distillation. The solution was distilled under vacuum (400 torr with an internal temperature of about 50° C.) until no significant solvent distillation occurred. An aliquot of the solution was removed and analyzed by 1H NMR to record the amount of solvents present. The solution of product was held overnight and used without further processing in the next step.

reactant | (4-bromo-2-fluorophenyl)acetonitrile | 0.4715 mol, 100.91 g | BrC1=CC(=C(C=C1)CC#N)F | C8H5BrFN
reactant | MeOTs | 1.034 mol, 156 mL | COS(=O)(=O)C1=CC=C(C)C=C1 | C8H10O3S
reactant | NaOtBu | 1.005 mol, 96.58 g | CC(C)(C)[O-].[Na+]
reactant | DABCO | 0.116 mol, 13.02 g | C1CN2CCN1CC2 | C6H12N2
reactant | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2-(4-bromo-2-fluorophenyl)-2-methylpropanenitrile | BrC1=CC(=C(C=C1)C(C#N)(C)C)F | C10H9BrFN
